US08981084B2
(3-(4-(4-Fluorophenyl)thiazol-2-yl)piperidin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 4-(4-fluorophenyl)-2-(piperidin-3-yl)thiazole TFA salt and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (41 mg, yield 28%). 1H NMR (400 MHz, MeOD) δ 8.20-8.18 (m, 1H), 8.09 (m, 1H), 7.85 (m, 2H), 7.66-7.65 (d, J=4.3 Hz, 2H), 7.59 (m, 1H), 7.10-7.05 (t, J=8.4 Hz, 2H), 3.91 (m, 1H), 3.65 (m, 1H), 3.49-3.39 (m, 2H), 2.36-2.31 (m, 1H), 2.12-2.03 (m, 3H), 1.77-1.74 (m, 1H). MS (ESI) m/z: Calculated for C24H18F4N4O2S: 502.11. found: 503.1 (M+H)+

reactant | 4-(4-fluorophenyl)-2-(piperidin-3-yl)thiazole TFA salt | OC(=O)C(F)(F)F.FC1=CC=C(C=C1)C=1N=C(SC1)C1CNCCC1
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (3-(4-(4-Fluorophenyl)thiazol-2-yl)piperidin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 28% | FC1=CC=C(C=C1)C=1N=C(SC1)C1CN(CCC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C24H18F4N4O2S
